US08865726B2
A mixture of tert-butyl 3-((4S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyl-2-oxoimidazolidin-1-yl)azetidine-1-carboxylate (22 mg, 0.032 mmol) and 1:2 EtOH/6N aqueous HCl (1 mL) was heated at reflux for 2 hours. After cooling, the reaction mixture was basified by slow addition of saturated aqueous NaHCO3 solution. The mixture was extracted with 10% MeOH in DCM. The combined extracts were washed with brine, dried and concentrated. The residue was purified by column chromatography (20% 7N ammonia in MeOH/dichloromethane) to give (S)-1-(azetidin-3-yl)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropylimidazolidin-2-one (12 mg, 82%) as a pale yellow solid. LCMS (APCI+) m/z 462.2 [M+H]+.

reactant | tert-butyl 3-((4S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyl-2-oxoimidazolidin-1-yl)azetidine-1-carboxylate | 0.032 mmol, 22 mg | FC=1C=C(C=CC1C1=NC=NN1COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(N(C[C@@H]2C(C)C)C2CN(C2)C(=O)OC(C)(C)C)=O | C34H46FN9O4Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 6N, 1 mL | CCO | C2H6O
product | (S)-1-(azetidin-3-yl)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropylimidazolidin-2-one | 12 mg, 82% | N1CC(C1)N1C(N([C@H](C1)C(C)C)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NNC=N2)F)=O | C23H24FN9O
